US04931443
N-(2-(N,N-diethylamino)ethyl)-5-[4-(4-(p-toluenesulfonyloxy)butyl)phenyl]pyrrolidin-2-one and 1-(3-methylphenyl)piperazine are reacted together to give N-(2-(N,N-diethylamino)ethyl)-5-[4-(4-(4-(3-methylphenyl)piperazin-1-yl)butyl)phenyl]pyrrolidin-2-one.

reactant | N-(2-(N,N-diethylamino)ethyl)-5-[4-(4-(p-toluenesulfonyloxy)butyl)phenyl]pyrrolidin-2-one | C(C)N(CC)CCN1C(CCC1C1=CC=C(C=C1)CCCCOS(=O)(=O)C1=CC=C(C=C1)C)=O | C27H38N2O4S
reactant | 1-(3-methylphenyl)piperazine | CC=1C=C(C=CC1)N1CCNCC1 | C11H16N2
product | N-(2-(N,N-diethylamino)ethyl)-5-[4-(4-(4-(3-methylphenyl)piperazin-1-yl)butyl)phenyl]pyrrolidin-2-one | C(C)N(CC)CCN1C(CCC1C1=CC=C(C=C1)CCCCN1CCN(CC1)C1=CC(=CC=C1)C)=O | C31H46N4O
